US07902252B2
2.105. Synthesis of 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (94)
The title compound was synthesized from methyl 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.145 g, 0.56 mmol) and lithium hydroxide (120 mg, 2.8 mmol in 1 mL water), according to General Procedure 7. In this example, methanol was used to solubilize the starting material. The resulting product was purified by chromatography over silica gel (gradient 0 to 100% EtOAc in heptane over 20 min) to give the title compound 78 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.17-2.27 (m, 1H) 2.70-2.98 (m, 3H) 4.20 (t, J=7.17 Hz, 1H) 6.54 (s, 1H) 6.85-6.92 (m, 2H) 7.01 (d, J=7.66 Hz, 1H) 7.22-7.31 (m, 1H). LCMS m/e 244 (M−H). 93% pure by HPLC.

reactant | methyl 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.56 mmol, 0.145 g | FC=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C15H14FNO2
reactant | lithium hydroxide | 2.8 mmol, 1 mL, 120 mg | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 78 mg | FC=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)O | C14H12FNO2
